US04408057
A stirred solution of 2.4 g (0.011 mole) of 4-(2-thienyl)-1-indanol and 0.15 g of p-toluenesulfonic acid in 60 mL of toluene was heated under reflux,, and the theoretical amount of water by-product was collected in a Dean-Stark trap. The reaction mixture was cooled and washed with two portions of 100 mL each of a 5% aqueous solution of sodium bicarbonate, then with two portions of 50 mL each of water. The organic layer was dried over magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 2.1 g of 7-(2-thienyl)-1H-indene as an oil.

reactant | 4-(2-thienyl)-1-indanol | 0.011 mole, 2.4 g | S1C(=CC=C1)C1=C2CCC(C2=CC=C1)O | C13H12OS
reactant | p-toluenesulfonic acid | 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 7-(2-thienyl)-1H-indene | 2.1 g | S1C(=CC=C1)C=1C=CC=C2C=CCC12 | C13H10S
